US08076334B2
A solution of 2-[3,5-dichloro-4-(1-hydroxymethyl-5-isopropyl-6-oxo-1,6-dihydro-pyridazin-3-yloxy)-phenyl]-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carbonitrile (200 mg, 0.43 mmol), 4-N,N-dimethyaminopyridine (25.3 mg, 0.21 mmol), N,N-diisopropylethylamine (0.23 mL, 1.29 mmol), in methylene chloride (3 mL) at 0° C. was treated with ethyl chloroformate (45 μL, 0.47 mmol). The reaction was stirred at allowed to gradually warm to 25° C. and was stirred at 25° C. for 48 h. At this time, the reaction mixture was diluted with methylene chloride (100 mL) and was washed with water (3×100 mL). The combined organics were washed with a saturated aqueous sodium chloride solution (1×100 mL), dried over magnesium sulfate, filtered, rinsed and concentrated in vacuo. ISCO CombiFlash chromatography (40 g, 1-10% methanol/methylene chloride) followed by reverse phase chromatography (Pursuit C-18 column, acetonitrile gradient with ammonium acetate) afforded carbonic acid 3-[2,6-dichloro-4-(6-cyano-3,5-dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-phenoxy]-5-isopropyl-6-oxo-6H-pyridazin-1-ylmethyl ester ethyl ester (89.9 mg, 39%) as a white solid. ES+-HRMS m/e calcd for C21H18N6O7Cl2 (M+H+) 537.0687, found 537.0686.

reactant | 2-[3,5-dichloro-4-(1-hydroxymethyl-5-isopropyl-6-oxo-1,6-dihydro-pyridazin-3-yloxy)-phenyl]-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carbonitrile | 0.43 mmol, 200 mg | ClC=1C=C(C=C(C1OC1=NN(C(C(=C1)C(C)C)=O)CO)Cl)N1N=C(C(NC1=O)=O)C#N | C18H14Cl2N6O5
reactant | N,N-diisopropylethylamine | 1.29 mmol, 0.23 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl chloroformate | 0.47 mmol, 45 μL | ClC(=O)OCC | C3H5ClO2
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | carbonic acid 3-[2,6-dichloro-4-(6-cyano-3,5-dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-phenoxy]-5-isopropyl-6-oxo-6H-pyridazin-1-ylmethyl ester ethyl ester | 89.9 mg, 39% | C(C)OC(OCN1N=C(C=C(C1=O)C(C)C)OC1=C(C=C(C=C1Cl)N1N=C(C(NC1=O)=O)C#N)Cl)=O | C21H18Cl2N6O7
